US06107329
(S)-(1-Dimethylcarbamoyl-2-thiazol-4-yl-ethyl)-carbamic acid tert-butyl ester
Dimethylamine hydrochloride (1.2 mmol) and Boc-L-3-(4-thiazolyl)alanine (1.0 mmol) were coupled according to Procedure A (0-25° C. reaction temperature) and the product purified by chromatography on silica gel eluted with 1-16% ethanol in dichloromethane containing 0.5% ammonium hydroxide. Yield 124 mg, 41%.

reactant | Dimethylamine hydrochloride | 1.2 mmol | Cl.CNC
reactant | Boc-L-3-(4-thiazolyl)alanine | 1.0 mmol | CC(C)(C)OC(=O)NC(CC1=CSC=N1)C(=O)O | C11H16N2O4S
product | (S)-(1-Dimethylcarbamoyl-2-thiazol-4-yl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC=1N=CSC1)C(N(C)C)=O)=O | C13H21N3O3S
